US07432291B2
iv) 3-(4-Difluoromethoxy-phenyl)-acrylic acid
A mixture of 10.0 g (7.68 ml, 58.1 mmol) 4-difluoromethoxy-benzaldehyde, 6.65 g (63.9 mmol) malonic acid, 0.21 g (2.50 mmol) piperidine and 50 ml pyridine was kept at reflux temperature until carbon dioxide development ceased (3 h). After cooling to room temperature the reaction mixture was poured onto 200 g ice and 100 ml 6N HCl. The precipitate was isolated, washed with water and dried. Yield: 8.8 g (71%) 3-(4-Difluoromethoxy-phenyl)-acrylic acid.

reactant | 4-difluoromethoxy-benzaldehyde | 58.1 mmol, 7.68 ml, 10.0 g | FC(OC1=CC=C(C=O)C=C1)F | C8H6F2O2
reactant | malonic acid | 63.9 mmol, 6.65 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 2.50 mmol, 0.21 g | N1CCCCC1 | C5H11N
reactant | carbon dioxide | C(=O)=O | CO2
reactant | HCl | 6N, 100 ml | Cl | ClH
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 3-(4-Difluoromethoxy-phenyl)-acrylic acid | FC(OC1=CC=C(C=C1)C=CC(=O)O)F | C10H8F2O3
